US08580859B2
To a solution of (S)-methyl 2-amino-4-(methylthio)butanoate (5 g, 30.7 mmol) and Boc-glycine (6.4 g, 36.8 mmol) in dichloromethane (100 mL) at room temperature was added diisopropylcarbodiimide (4.6 g, 36.8 mmol) and diisopropylethylamine (4.75 g, 36.8 mmol). The mixture was stirred overnight at room temperature, washed with 1N HCl, brine, and dried over sodium sulfate, filtered and concentrated to give a residue, which was purified on silica gel column to give (S)-methyl 12,12-dimethyl-7,10-dioxo-11-oxa-2-thia-6,9-diazatridecane-5-carboxylate (7 g, 71%). MS calcd for (C13H24N2O5S+H)+: 321.1; MS found: (M+H)+=321.2.

reactant | (S)-methyl 2-amino-4-(methylthio)butanoate | 30.7 mmol, 5 g | N[C@H](C(=O)OC)CCSC | C6H13NO2S
reactant | Boc-glycine | 36.8 mmol, 6.4 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | diisopropylcarbodiimide | 36.8 mmol, 4.6 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | diisopropylethylamine | 36.8 mmol, 4.75 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-methyl 12,12-dimethyl-7,10-dioxo-11-oxa-2-thia-6,9-diazatridecane-5-carboxylate | 7 g, 71% | CC(OC(NCC(N[C@@H](CCSC)C(=O)OC)=O)=O)(C)C | C13H24N2O5S
